US05869485
60 g of 3-nitrophenol, 88 g of potassium carbonate and 178 ml of 1-bromo-2-chloroethane are boiled under reflux for 36 h in 800 ml of acetone together with 1.5 g of tetrabutylammonium bromide and 2.0 g of potassium iodide. The mixture is then cooled to RT and concentrated in an RE. The mixture is treated with water, extracted 3 times with ethyl acetate and concentrated. The residue is chromatographed using methylene chloride and the product-containing fractions are concentrated. 1-(2-chloroethoxy)-3-nitrobenzene are obtained as an oil which may crystallize (m.p. 58°-60° C).

reactant | 3-nitrophenol | 60 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | potassium carbonate | 88 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloroethane | 178 ml | BrCCCl | C2H4BrCl
reactant | potassium iodide | 2.0 g | [I-].[K+]
solvent | acetone | 800 ml | CC(=O)C | C3H6O
catalyst | tetrabutylammonium bromide | 1.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(2-chloroethoxy)-3-nitrobenzene | ClCCOC1=CC(=CC=C1)[N+](=O)[O-] | C8H8ClNO3
